US06114568
1-[4-(4-Fluoro-phenoxy)-benzenesulfonylamino]-cyclopentanecarboxylic acid benzyl ester (15 g, 32 mmole) in 75 mL THF was combined with 75 mL (150 mmole) 2N aqueous sodium hydroxide and stirred at reflux for 1 hour. The reaction was cooled to ambient temperature and diluted with 100 mL water and 100 mL ethyl acetate. The pH of the aqueous phase was adjusted to pH 1.2 and the ethyl acetate layer separated. The ethyl acetate layer was washed with 100 mL water and dried over magnesium sulfate. The ethyl acetate was stripped in vacuo and replaced with 75 mL methyl tert-butyl ether. The product was filtered and dried to yield 11.16 g (92%) of 1-[4-(4-fluoro-phenoxy) benzenesulfonylamino]-cyclopentanecarboxylic acid. 1H NMR (CDCl3) □ 7.71-7.78 (m, 2H), 6.88-7.04 (m, 6H), 5.04 (s, 1H), 2.01-2.13 (m, 2H), 1.92-1.98 (m, 2H), 1.44-1.68 (m, 4H).

reactant | 1-[4-(4-Fluoro-phenoxy)-benzenesulfonylamino]-cyclopentanecarboxylic acid benzyl ester | 32 mmole, 15 g | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C25H24FNO5S
reactant | sodium hydroxide | 150 mmole, 2N, 75 mL | [OH-].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-(4-fluoro-phenoxy) benzenesulfonylamino]-cyclopentanecarboxylic acid | 11.16 g, 92% | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)NC2(CCCC2)C(=O)O)C=C1 | C18H18FNO5S
